* C:\users\abdalaj\Desktop\courses\analog_ic_desn\project\Analog-Comparator-IC-Design\SPICE\Comparator_Design\LTspice\comparator_design.asc
* Generated by LTspice 26.0.1 for Windows.
VDD VDD 0 3
I_ref VDD N003 10µ
M1 N003 N003 0 0 NMOS_LVL1 l=5u w=5u
M2 diff_out Vin_2 N002 0 NMOS_LVL1 l=5u w=5u
M3 N001 Vin_1 N002 0 NMOS_LVL1 l=5u w=5u
M4 N002 N003 0 0 NMOS_LVL1 l=5u w=40u
M6 VDD N001 diff_out VDD PMOS_LVL1 l=5u w=5u
M8 CS_out N003 0 0 NMOS_LVL1 l=10u w=25u
M9 Vout CS_out 0 0 NMOS_LVL1 l=40u w=20u
M5 VDD CS_out Vout VDD PMOS_LVL1 l=20u w=40u
M7 VDD diff_out CS_out VDD PMOS_LVL1 l=10u w=19u
M10 VDD N001 N001 VDD PMOS_LVL1 l=5u w=5u
V1 Vin_1 0 SINE(1.2 10m 1K)
V2 Vin_2 0 SINE(1.2 0 0)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\abdalaj\AppData\Local\LTspice\lib\cmp\standard.mos
.lib cmos_models.lib
* CS amplifier
* Inverting buffer
* Current mirror
* Comparator Schema
.tran 0 .005 0
;.op
.backanno
.end
